US08017607B2
To a mixture of rac-4-{[(2S,3S,4S)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,3-dichloro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid methyl ester (85.0 mg, 0.14 mmol) in THF/MeOH (0.6 mL/0.2 mL) was added 4 N LiOH (0.2 mL), and the reaction mixture was stirred at rt for 2 hrs. The reaction mixture was concentrated and quenched with 2 NH2SO4, extracted with EtOAc, and washed with water, brine. The organic phase was separated, and dried over Na2SO4. The mixture was then concentrated to give rac-4-{[(2S,3S,4S)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,3-dichloro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid (54.3 mg, 65.4%). LC-MS (ES+) m/z Calcd for C30H27Cl3FN3O3+H [(M+H): 604; Found: 604.

reactant | rac-4-{[(2S,3S,4S)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,3-dichloro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid methyl ester | 0.14 mmol, 85.0 mg | COC(C1=CC=C(C=C1)NC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)Cl)=O | C31H29Cl3FN3O3
reactant | LiOH | 4 N, 0.2 mL | [Li+].[OH-]
solvent | THF MeOH | 0.6 mL | C1CCOC1.CO
product | rac-4-{[(2S,3S,4S)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,3-dichloro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid | 54.3 mg, 65.4% | ClC1=CC(=C(C=C1)[C@@]1([C@H](N(C[C@H]1CC(C)(C)C)C(=O)NC1=CC=C(C(=O)O)C=C1)C1=C(C(=CC=C1)Cl)Cl)C#N)F | C30H27Cl3FN3O3
